US07560546B2
Step D: Ethyl 5-chloro-3-(morpholin-4-ylsulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate
To a solution of ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate (149 mg, 0.322 mmol) in 5 mL of dichloromethane at 0° C. was added triethylamine (0.050 mL, 0.39 mmol), followed by morpholine (0.040 mL, 0.48 mmol). After four hours, the mixture was concentrated in vacuo to give the crude titled product. ESI+MS: 513.1 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | 0.322 mmol, 149 mg | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | triethylamine | 0.39 mmol, 0.050 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.48 mmol, 0.040 mL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Ethyl 5-chloro-3-(morpholin-4-ylsulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)N1CCOCC1 | C21H21ClN2O7S2
